datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)c1cc[n:10]c(C(C)(C)C)c1.C[N+:21](C)(CCCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20]>>CC(C)(C)c1cc[n+:10]([H:20])c(C(C)(C)C)c1.C[N:21](C)CCCCC(=O)Oc1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"CC1CCC[N:10]1C.CCCCCCCP(CCCCCCC)(CCCCCCC)=[O+:21][H:20]>>CC1CCC[N+:10]1(C)[H:20].CCCCCCCP(CCCCCCC)(CCCCCCC)=[O:21] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].[Se-]CC[NH2:10]>>O=C1SC2=C(C=CC=C2)[CH-:21]1.[Se-]CC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[N+:21](CC)(CCCC#N)[H:20].Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n:10]c12>>CC[N:21](CC)CCCC#N.Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n+:10]([H:20])c12 10=20;20,21=21",
"CC(c1ccccc1)[N:10]1CC(O[Si](C)(C)C)C1.CCNCC[NH+:21](CC)[H:20]>>CC(c1ccccc1)[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.CCNCC[NH:21]CC 10=20;20,21=21",
"CCCn1c[n+:21]([H:20])cn1.O=C(C[Se]c1ccccc1[N+](=O)[O-])[O-:10]>>CCCn1c[n:21]cn1.O=C(C[Se]c1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"CC(C)SCC(=O)[O-:10].Clc1ccc(/C=[O+:21]/[H:20])cc1>>CC(C)SCC(=O)[O:10][H:20].Clc1ccc(C=[O:21])cc1 10=20;20,21=21",
"CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n:10]c2ccccc21.c1ccc2c(N[NH2+:21][H:20])nncc2c1>>CCOCCn1c(N2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n+:10]([H:20])c2ccccc21.c1ccc2c(N[NH2:21])nncc2c1 10=20;20,21=21",
"O=C(CC1CCCCC1)[O-:10].OB(O)c1cccc([NH2+:21][H:20])c1>>O=C(CC1CCCCC1)[O:10][H:20].OB(O)c1cccc([NH2:21])c1 10=20;20,21=21",
"CC[N+:21](C)(C)[H:20].O=C(C[N:10]1CCCCC1)NCc1ccccc1>>CC[N:21](C)C.O=C(C[N+:10]1([H:20])CCCCC1)NCc1ccccc1 10=20;20,21=21",
"CC[N+:21]1([H:20])CCOCC1.CSc1nc(N)c2c(nc[n-:10]2)n1>>CC[N:21]1CCOCC1.CSc1nc(N)c2c(nc[n:10]2[H:20])n1 10=20;20,21=21",
"Nc1sc2ccccc2[n:10]1.O=C(CC1CCCCO1)[O:21][H:20]>>Nc1sc2ccccc2[n+:10]1[H:20].O=C(CC1CCCCO1)[O-:21] 10=20;20,21=21",
"CCC1CSC(C(C)C)=[N:10]1.O=C([O-])c1cccc([O:21][H:20])c1>>CCC1CSC(C(C)C)=[N+:10]1[H:20].O=C([O-])c1cccc([O-:21])c1 10=20;20,21=21",
"CC(C[N:10]1CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CC1C[N+:21]([H:20])=C(C(C)(C)C)S1>>CC(C[N+:10]1([H:20])CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CC1C[N:21]=C(C(C)(C)C)S1 10=20;20,21=21",
"O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1[nH]c2ccccc2[n+:21]1[H:20].c1ccc(-c2ccc3n(n2)c(C[NH+]2CCOCC2)c[n:10]3)cc1>>Nc1[nH]c2ccccc2[n:21]1.c1ccc(-c2ccc3n(n2)c(C[NH+]2CCOCC2)c[n+:10]3[H:20])cc1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(N)=O.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(N)=O.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"OCC(CO)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCC(CO)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)c1ccc([O-:10])cc1.CNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CCOC(=O)c1ccc([O:10][H:20])cc1.CNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CN(C)c1sc2c([n+:21]1[H:20])CCCC2.O=C([O-])Cc1nnn[n-:10]1>>CN(C)c1sc2c([n:21]1)CCCC2.O=C([O-])Cc1nnn[n:10]1[H:20] 10=20;20,21=21",
"N#CC(CC[N:10]1CCOCC1)(c1ccccc1)c1ccccc1.O=[N+]([O-])c1ccc([NH+:21](O)[H:20])cc1>>N#CC(CC[N+:10]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.O=[N+]([O-])c1ccc([NH:21]O)cc1 10=20;20,21=21",
"COC(=O)C(CCONC(N)=O)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COC(=O)C(CCONC(N)=O)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CSC(C)C(=O)[O:21][H:20].Cc1ccc(C)[n:10]n1>>CSC(C)C(=O)[O-:21].Cc1ccc(C)[n+:10]([H:20])n1 10=20;20,21=21",
"Cn1ncc2c(N)nc[n+:21]([H:20])c21.O=C(C1=CC=C[Se]1)[O-:10]>>Cn1ncc2c(N)nc[n:21]c21.O=C(C1=CC=C[Se]1)[O:10][H:20] 10=20;20,21=21",
"CSc1ncnc2nc[n-:10]c12.Cc1nnc(C)n1[NH:21][H:20]>>CSc1ncnc2nc[n:10]([H:20])c12.Cc1nnc(C)n1[NH-:21] 10=20;20,21=21",
"CCOc1ccccc1C(=O)[O:21][H:20].COc1cccc(C(c2ccccc2)=[NH:10])c1>>CCOc1ccccc1C(=O)[O-:21].COc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"C1=CC=CC(=[O+:21][H:20])C=C1.CCCCN/C(C)=[N:10]\N(C)C>>C1=CC=CC(=[O:21])C=C1.CCCCN/C(C)=[N+:10](\N(C)C)[H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCN.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)[NH+:10](CCN)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)(C)[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
"CC(C)(C)C1C(=O)NC(=O)[N-:10]C1=O.N#C[C@H]1CCCC[C@@H]1C(=O)[O:21][H:20]>>CC(C)(C)C1C(=O)NC(=O)[N:10]([H:20])C1=O.N#C[C@H]1CCCC[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CC[N:10](C(C)C)C(C)C.c1cc(CCCCC[NH2+:21][H:20])ccn1>>CC[N+:10](C(C)C)(C(C)C)[H:20].c1cc(CCCCC[NH2:21])ccn1 10=20;20,21=21",
"CCOC(=S)[S-:10].SCc1c[nH]c[n+:21]1[H:20]>>CCOC(=S)[S:10][H:20].SCc1c[nH]c[n:21]1 10=20;20,21=21",
